US04666916
(±)-[4aR*,10bS*]-1,3,4,4a,5,10b-Hexahydro-9-methoxy-2,7-dimethyl-2H-[1]benzopyrano[4,3-c]pyridine
To a solution of 1.2 g (±)-[4aR*,10bS*]-7-bromo-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine in 25 ml dry THF is added 2.14 ml n-butyllithium (1.98M in hexane). After 30 minutes 0.36 ml CH3I is added and the reaction is warmed to 25° and stirred 1 hour. Water (50 ml) and ethyl acetate (100 ml) is added. The organic phase is washed with brine, dried over Na2SO4, filtered, concentrated under reduced pressure, and flash chromatrographed with CH2Cl2 /ammonia saturated methanol (20:1) to afford the title compound; m.p. HCl salt 263° dec.

reactant | (±)-[4aR*,10bS*]-7-bromo-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine | 1.2 g | BrC1=CC(=CC2=C1OC[C@H]1[C@@H]2CN(CC1)C)OC | C14H18BrNO2
reactant | n-butyllithium | 1.98M, 2.14 ml | C(CCC)[Li]
reactant | CH3I | 0.36 ml | CI | CH3I
reactant | Water | 50 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-Hexahydro-9-methoxy-2,7-dimethyl-2H-[1]benzopyrano[4,3-c]pyridine | COC=1C=C(C2=C(C1)[C@H]1CN(CC[C@H]1CO2)C)C | C15H21NO2
